* Z:\mnt\design.r\spice\examples\1394.asc
V1 +V 0 5
V3 N002 0 pulse(0 2 0 .5m .5m 0 1m)
V2 N004 0 1
XU1 +V N002 N004 0 0 0 N003 N001 LT1394
.tran 3m
.lib LTC.lib
.backanno
.end
