* Z:\mnt\design.r\spice\examples\1395.asc
V1 +V 0 9
XU1 N005 N002 +V 0 N004 LT1395
D2 N004 N003 1N4148 N=2
C1 N003 N004 4.7µ
R1 N003 N002 255
R2 N001 N002 84.5
R3 N002 0 255
V2 N001 0 5
R4 N001 N005 1K
R5 N005 IN {1300+160}
R6 IN 0 {2.32+75}
V3 IN 0 sine(1 1 1Meg)
R7 OUT N003 75
R8 0 OUT 75
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10u
* Single Supply RGB Video Amplifier(1 of 4 Channels)
.lib LTC.lib
.backanno
.end
