* Z:\mnt\design.r\spice\examples\1432.asc
C1 N002 N005 .02µ
C2 N004 N005 .03µ
C3 N003 N005 .1µ
R1 N004 N003 680
C4 N001 N005 10µ
L1 N005 N006 50µ Rpar=2K
R2 N006 OUT 13m
V1 IN 0 10
C5 OUT 0 390µ
D1 0 N005 1N5818
D2 OUT N001 1N4148
XU1 N006 OUT IN N001 N005 N004 0 0 LT1432
XU2 N004 N002 N005 IN N001 LT1271
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LT1271.sub
.lib LT1432.sub
.backanno
.end
