* Z:\mnt\design.r\spice\examples\1442.asc
V1 N003 0 3.3
V2 N004 0 pulse(0 3.3 0 .5m .5m 0 1m)
XU1 N001 0 N004 N005 N005 N005 N003 N002 LTC1442
.tran 3m
.lib LTC.lib
.backanno
.end
