* Z:\mnt\design.r\spice\examples\1444.asc
V1 N001 0 5
V2 N002 0 PULSE(0 3.3 0 5m 5m 0 10m)
XU1 N003 N001 N002 N004 N004 0 N004 LTC1444
R1 N001 N003 10K
.tran 30m
.lib LTC.lib
.backanno
.end
