* Z:\mnt\design.r\spice\examples\1515.asc
V1 IN 0 3
R1 IN N001 5K
C1 N003 N004 1µ
C2 OUT 0 10µ
R2 OUT N002 170K
R3 N002 0 100K
Rload OUT 0 100
XU1 IN N001 N002 0 N004 N003 IN OUT LTC1515
.tran 1m startup
.lib LTC1515.sub
.backanno
.end
