* Z:\mnt\design.r\spice\examples\1516.asc
XU1 N001 IN OUT N003 N004 0 0 N002 LTC1516
C1 N002 N001 .22µ
C2 N004 N003 .22µ
V1 IN 0 3
C3 OUT 0 10µ
Rload OUT 0 100
.tran 1m startup
.lib LTC1516.sub
.backanno
.end
