* Z:\mnt\design.r\spice\examples\1542.asc
V1 N001 0 5
R1 N005 N004 5Meg
R2 N006 N002 500K
R3 N001 N003 5Meg
R4 N003 0 5Meg
R5 N005 N002 10Meg
C1 N004 N006 .1µ
XU1 N002 N003 N005 0 N003 N006 N004 N001 LTC1542
.tran .5 startup
.lib LTC.lib
.backanno
.end
