* Z:\mnt\design.r\spice\examples\1563.asc
R1 N002 N001 10K
R2 N003 N001 100K
R3 N001 IN 100K
V1 IN 0 AC 1
XU1 N003 N002 N001 TowTom2
.include TowTom2.sub
.ac oct 100 1k 10Meg
* This example schematic is supplied for informational/educational purposes only.
.backanno
.end
