* Z:\mnt\design.r\spice\examples\1587.asc
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 22µ
Rload OUT 0 500
R1 OUT N001 500
R2 N001 0 500
XU1 N001 OUT IN LT1587
.tran 1
.lib LT1584.lib
.backanno
.end
