* Z:\mnt\design.r\spice\examples\1611.asc
C2 0 OUT 22µ Rser=0.02
D1 N002 0 MBRS140
R2 N003 0 10.0K
R1 OUT N003 29.4K
V1 IN 0 5
C4 N001 N002 1µ
XU1 N001 0 N003 IN IN LT1611
L2 OUT N002 4.7µ Rser=0.02 Rpar=5000
L1 IN N001 4.7µ Rser=0.02 Rpar=5000
Rload OUT 0 100
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 750u startup
K1 L1 L2 1
.lib LT1611.sub
.backanno
.end
