* Z:\mnt\design.r\spice\examples\1613.asc
V1 N001 0 3.3
R1 OUT N003 374K
R2 N003 0 121K
L1 N001 N002 4.7µ Rser=0.02 Rpar=5000
D1 N002 OUT MBRS140
C1 OUT 0 22µ Rser=0.02
XU1 N002 0 N003 N001 N001 LT1613
Rload OUT 0 25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT1613.sub
.backanno
.end
