* Z:\mnt\design.r\spice\examples\1615.asc
C2 OUT 0 1µ
D1 N001 OUT MBR0540
L1 IN N001 10µ Rpar=20K
R1 N002 0 130K
R2 OUT N002 2Meg
V1 IN 0 3.3
XU1 N001 0 N002 IN IN LT1615
Rload OUT 0 2K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT1615.sub
.backanno
.end
