* Z:\mnt\design.r\spice\examples\1626.asc
D1 0 N001 MBRS340
L1 N001 N002 50µ
R1 N002 OUT .1
C1 N007 0 270p
C2 N005 0 3900p
V1 IN 0 5
C3 OUT 0 200µ Rser=0.01
C4 N002 OUT 1000p
R2 N006 N005 470
R3 OUT N008 10K
R4 N008 0 10K
XU1 MP_01 IN N003 N004 N007 N006 OUT N002 N008 0 0 MP_02 MP_03 N001 LTC1626
Rload OUT 0 2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LTC1626.sub
.backanno
.end
