* Z:\mnt\design.r\spice\examples\1635.asc
V1 +V 0 5
R1 OUT N001 1K
R2 N001 0 1K
V3 IN 0 SINE(1.25 .5 1K)
XU1 IN N001 +V 0 OUT REF REF LT1635
.tran 3m
.lib LTC.lib
.backanno
.end
