* Z:\mnt\design.r\spice\examples\1636.asc
V1 +V 0 5
V3 N001 0 SINE(2.5 1 10K)
XU1 N001 OUT +V 0 OUT N002 LT1636
V4 N002 0 PULSE(0 5 0 1u 1u .5m 1m)
R1 OUT 0 10K
.tran 3m startup
.lib LTC.lib
.backanno
.end
