* Z:\mnt\design.r\spice\examples\1637.asc
V1 +V 0 5
XU1 N001 N003 +V 0 N004 NC_01 LT1637
Q1 N001 N004 OUT 0 2N3904
R1 OUT 0 2K
R2 +V N002 .2
R3 N001 +V 200
R4 N003 N002 200
I1 N002 0 SINE(1 1 1K)
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 3m
* Positive Supply Rail Current Sense
.lib LTC.lib
.backanno
.end
