* Z:\mnt\design.r\spice\examples\1644.asc
R1 5Vin N001 7m
M§Q1 N001 N002 5Vout 5Vout IRF7413
R2 N002 N007 10
R3 N008 N007 1K
M§Q2 N003 N004 3Vout 3Vout IRF7413
R4 N004 N007 10
R5 3Vin N003 5m
C1 N008 0 0.01µ
V1 N019 0 5
R6 N014 N019 10K
C2 3Vout 0 30µ
C3 N015 0 0.1µ
C4 5Vout 0 30µ
R7 N016 N019 10K
V2 N011 0 PWL(0 0 10m 0 +1u 3.3)
R8 N019 N012 10K
R9 N010 N009 18
C5 0 N010 4.7n
Q3 N006 N009 N005 0 2N2222
R10 3Vin N006 12
R11 3Vin N009 1K
XU1 N021 N020 5Vout N015 N013 N014 N016 0 N011 N012 N009 N005 5Vin N001 N007 N003 3Vin 3Vout N018 N017 LTC1644
R12 N017 0 30
C6 N017 0 10µ
R13 N018 0 150
C7 N018 0 10µ
V3 N013 0 PWL(0 3.3 40m 3.3 +1u 0)
V4 N020 0 PULSE(0 -12 5m 5m 5m 400m 450m)
V5 N021 0 PULSE(0 12 5m 5m 5m 400m 450m)
V6 5Vin 0 PULSE(0 5 5m 5m 5m 250m 300m)
V7 3Vin 0 PULSE(0 3.3 5m 5m 5m 250m 300m)
Rload1 5Vout 0 2
Rload2 3Vout 0 0.87
Rload3 N005 0 18
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 550m
.lib LTC1644.sub
.backanno
.end
