* Z:\mnt\design.r\spice\examples\1646.asc
Rsense5 5Vin N001 7m
R10 N002 N007 10
R2 N008 N007 1K
M1 N003 N004 3Vout 3Vout IRF7413
R3 N004 N007 10
Rsense3 3Vin N003 5m
C7 N008 0 0.01µ
V9 5Vin 0 PULSE(0 5 5m 5m 5m 400m 500m)
V1 3Vin 0 PULSE(0 3.3 5m 5m 5m 400m 500m)
V11 N013 0 PWL(0 3.3 40m 3.3 +1u 0 0.17 0 +1u 3.3 +10m 3.3 +1u 0 0.31 0 +1u 3.3 +10m 3.3 +1u 0)
V12 N014 0 3.3
R4 N015 N014 3K
C1 3Vout 0 30µ
R5 3Vout 0 0.8
C5 N017 0 0.1µ
R1 5Vout 0 2
C2 5Vout 0 30µ
R6 N018 N014 3K
XU1 N012 N016 N015 N018 5Vout 0 3Vout 3Vin N003 N007 N001 5Vin N005 N009 N013 N010 LTC1646
V5 N010 0 PWL(0 0 10m 0 +1u 3.3)
R7 N012 3Vout 3K
R8 N011 N009 18
C3 0 N011 4.7n
Q2 N006 N009 N005 0 2N2222
R14 3Vin N006 12
R15 3Vin N009 1K
R16 N005 0 18
R9 N017 N016 10K
M2 N001 N002 5Vout 5Vout IRF7413
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* 5V, 8A
* 3.3V, 11A
.tran 0.65
.lib LTC1646.sub
.backanno
.end
