* Z:\mnt\design.r\spice\examples\1676.asc
V1 IN 0 30
C1 N005 N004 2200p
C2 N004 0 100p
R1 N005 0 22K
D1 0 N001 MBRS1100
L1 N001 OUT 220µ
C3 OUT 0 100µ
R2 OUT N003 36.5K
R3 N003 0 12.1K
Rload OUT 0 10
XU1 N002 OUT N001 0 IN MP_01 N003 N004 LT1676
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LT1676.sub
.backanno
.end
