* Z:\mnt\design.r\spice\examples\1696.asc
XU1 N002 0 N001 N003 N004 N005 LTC1696
V1 N001 0 12
C1 N005 0 1000p
R1 N003 0 1K
V2 N002 0 PWL(0 0 1m 1 2m 0 3m 1)
V3 N004 0 PWL(0 0 2m 1)
.tran 3m startup
.lib LTC1696.sub
.backanno
.end
