* Z:\mnt\design.r\spice\examples\1697.asc
Q1 N003 N006 N008 0 FZT849
Q2 N005 N007 N008 0 FZT849
L1 N003 N004 10µ
L2 N004 N005 10µ
C1 N005 N003 .15µ
L3 N007 N006 .3µ
V1 N004 0 5
L4 0 N001 .2
R1 N002 N011 70K
L5 N008 N009 33µ
R5 N004 N007 330
XU1 N014 N012 N010 N009 0 N011 N004 N013 N015 N004 LTC1697
R2 N008 N010 200K
R3 0 N015 8.25K
C2 0 N013 .01µ
C3 N002 N001 50p
C4 N014 0 .01µ
V2 N012 0 1.5
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 5m startup
K1 L1 L2 L3 L4 1
.lib LTC1697.sub
.backanno
.end
