* Z:\mnt\design.r\spice\examples\1719.asc
V1 +V 0 3.3
C1 P001 N002 1.6p Rser=45 Lser=15.6m Cpar=6p
R1 N002 0 620
R2 +V N002 2K
R3 OUT N001 2K
C2 N001 0 .1µ
R4 OUT P001 220
XU1 +V N002 N001 0 0 0 OUT +V LT1719
R5 N001 0 1.8K
.tran 250u startup
* 2.7 to 6V Crystal Oscillator with TTL/CMOS Output
.lib LTC.lib
.backanno
.end
