* Z:\mnt\design.r\spice\examples\1738.asc
D1 N001 OUT B520C
R1 OUT N008 21.5K
R2 N009 0 5K
R3 N007 0 16.9K
C1 N006 0 1300p
C2 0 N011 .22µ Rser=15K Cpar=22n
V1 IN 0 6
C3 OUT 0 200µ Rser=.1
XU1 N004 N002 IN N005 N003 MP_01 N006 N007 N008 NC_02 0 N011 N012 IN N010 N009 IN MP_03 MP_04 0 LT1738
R4 N010 0 5K
C5 N012 0 .01µ
R5 N008 0 2.5K
M§Q1 N001 N004 N005 N005 Si9426DY
R6 N005 0 25m
C6 N001 N002 5p
L1 IN N001 22µ
R7 OUT 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 4m startup
.lib LT1738.sub
.backanno
.end
