* Z:\mnt\design.r\spice\examples\1765.asc
C2 N001 N002 .18µ
L1 N002 OUT 1.5µ
R1 OUT N004 17.4K
R2 N004 0 10K
D1 0 N002 MBRS340
D2 OUT N001 1N914
V1 IN 0 5
C3 N006 0 2.2n
C1 OUT 0 4.7µ Rser=10m
XU1 N001 IN N002 0 N003 N004 N005 LT1765
R3 N006 N005 1K
Rload OUT 0 1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 200u startup
.lib LT1765.sub
.backanno
.end
