* Z:\mnt\design.r\spice\examples\1767.asc
C1 N001 N002 .1µ
L1 N002 OUT 5µ
R1 OUT N004 17.4K
R2 N004 0 10K
D1 0 N002 MBRS130L
D2 OUT N001 1N914
V1 IN 0 5
C2 N006 0 4000p
C3 OUT 0 2.2µ
R3 N006 N005 1K
XU1 N001 IN N002 0 N003 N004 N005 LT1767
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 100u startup
.lib LT1767.sub
.backanno
.end
