* Z:\mnt\design.r\spice\examples\1775.asc
XU1 N001 MP_01 N002 N004 N007 0 OUT 0 0 N010 N009 N008 N003 N005 IN IN LTC1775
M§Q1 IN N003 N005 N005 Si4410DY
M§Q2 N005 N010 0 0 Si4410DY
D1 N009 N008 1N5818
L1 N005 OUT 6µ
D2 0 N005 1N5818
C1 OUT 0 500µ Rser=.05
R1 N007 N006 10K
C2 N006 0 2200p
C3 N002 0 .01µ
V1 IN 0 6
C4 N005 N008 .22µ
C5 N009 0 4.7µ
Rload OUT 0 2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 6m startup
.lib LTC1775.sub
.backanno
.end
